US08802679B2
Under an argon atmosphere, a solution of tert-butyl 4-(5-bromo-3-methylpyridin-2-yl)piperazine-1-carboxylate (400 mg) in THF (8 ml) was cooled to −78° C., and 1.63 M n-butyl lithium (0.9 ml) was added dropwise thereto, followed by stirring at the same temperature for 1 hour. Crushed dry ice was put into another flask, and THF (30 ml) was poured thereinto. The mixture to which n-BuLi had been added dropwise immediately before was added thereto, followed by stirring as it was for 1 hour. To the reaction mixture was added water and 1 M hydrochloric acid, and the pH of the aqueous layer was adjusted to around 5.0. The aqueous layer was extracted with EtOAc, the organic layer was separated, and then the aqueous layer was extracted with CHCl3 again. These organic layers were combined and dried over Na2SO4, and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH) to obtain 6-[4-(tert-butoxycarbonyl)piperazine-1-yl]-5-methylnicotinic acid (169 mg).

reactant | tert-butyl 4-(5-bromo-3-methylpyridin-2-yl)piperazine-1-carboxylate | 400 mg | BrC=1C=C(C(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C15H22BrN3O2
reactant | n-butyl lithium | 1.63 M, 0.9 ml | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | n-BuLi | [Li]CCCC
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-[4-(tert-butoxycarbonyl)piperazine-1-yl]-5-methylnicotinic acid | 169 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C(=O)O)C=C1C | C16H23N3O4
